US08809333B2
To a solution of (2R)-2-methyl-4-(3-methyl-4-phenyl-1H-pyrazol-1-yl)-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (110 mg, 0.253 mmol) in EtOH (5 mL) was added PPTS (20 mg, 0.080 mmol) and the mixture was heated at reflux for 3 h. The solution was concentrated to afford a crude white solid which was purified via flash chromatography using an Analogix SF10-8 g silica column eluting with ethyl acetate in heptane (50-80%) to give (2R)—N-hydroxy-2-methyl-4-(3-methyl-4-phenyl-1H-pyrazol-1-yl)-2-(methylsulfonyl)butanamide (32 mg, 36% yield). 1H NMR (400 MHz, CHLOROFORM-d) δ 7.54-7.25 (m, 1H), 4.39-4.21 (m, 2H), 3.04 (s, 3H), 2.91-2.77 (m, 1H), 2.59-2.46 (m, 1H), 2.43 (s, 3H), 1.71 (s, 3H). LC-MS M+H+352.1.

reactant | (2R)-2-methyl-4-(3-methyl-4-phenyl-1H-pyrazol-1-yl)-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.253 mmol, 110 mg | C[C@](C(=O)NOC1OCCCC1)(CCN1N=C(C(=C1)C1=CC=CC=C1)C)S(=O)(=O)C | C21H29N3O5S
reactant | PPTS | 0.080 mmol, 20 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | EtOH | 5 mL | CCO | C2H6O
product | (2R)—N-hydroxy-2-methyl-4-(3-methyl-4-phenyl-1H-pyrazol-1-yl)-2-(methylsulfonyl)butanamide | 32 mg, 36% yield | ONC([C@@](CCN1N=C(C(=C1)C1=CC=CC=C1)C)(S(=O)(=O)C)C)=O | C16H21N3O4S
